US04518597
6-[4-(4-Methyl-phenylmercapto)-butoxy]-4,4,8-trimethyl-4H-3,1-benzoxazin-2-one
Prepared analogously to Example 1 from 6-(4-chlorobutoxy-4,4,8-trimethyl-4H-3,1-benzoxazin-2-one and 4-methyl-thiophenol.

reactant | 4-chlorobutoxy-4,4,8-trimethyl-4H-3,1-benzoxazin-2-one | ClCCCCOC1=CC=C(C2=C1C(OC(N2)=O)(C)C)C | C15H20ClNO3
reactant | 4-methyl-thiophenol | CC1=CC=C(C=C1)S | C7H8S
product | 6-[4-(4-Methyl-phenylmercapto)-butoxy]-4,4,8-trimethyl-4H-3,1-benzoxazin-2-one | CC1=CC=C(C=C1)SCCCCOC=1C=C(C2=C(C(OC(N2)=O)(C)C)C1)C | C22H27NO3S
